US07488831B2
Synthesis of 4-[(5-hydroxy-1-methyl-3-trifluoromethylpyrazol-4-yl)-methylsulfonyl]toluene
5-Hydroxy-1-methyl-3-trifluoromethylpyrazole (8.3 g (50 mmol)) synthesized in Reference Example 1 and 3.0 g (75 mmol) of sodium hydroxide were dissolved in 50 mL of water. While stirring the resulting solution at room temperature, 8.5 g (100 mmol) of a 35% formalin solution was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Furthermore, 9.0 g (50 mmol) of sodium p-toluenesulfinate was charged thereto at room temperature, and the obtained mixture was stirred for 2 hours. After the reaction, 25.0 g (250 mmol) of 35% hydrochloric acid was added dropwise thereto, 100 mL of water was further added, and the precipitated crystal was collected by filtration, washed twice with 20 mL of water and dried by a hot air drier to obtain 14.0 g (yield: 83.8%) of the title compound as a white crystal.

reactant | 5-Hydroxy-1-methyl-3-trifluoromethylpyrazole | 50 mmol, 8.3 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | sodium hydroxide | 75 mmol, 3.0 g | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | sodium p-toluenesulfinate | 50 mmol, 9.0 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | hydrochloric acid | 250 mmol, 25.0 g | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4-[(5-hydroxy-1-methyl-3-trifluoromethylpyrazol-4-yl)-methylsulfonyl]toluene | 14.0 g, yield: 83.8% | OC1=C(C(=NN1C)C(F)(F)F)CS(=O)(=O)C1=CC=C(C=C1)C | C13H13F3N2O3S
